US07906645B2
tert-Butyl (3S)-3-{[4-(anilinocarbonyl)piperazin-1-yl]methyl}piperidine-1-carboxylate
tert-Butyl (3S)-3-(piperazin-1-ylmethyl)piperidine-1-carboxylate (3.5 g) and phenyl isocyanate (1.62 g) were stirred in toluene (50 ml) at room temperature for 20 h. The solvent was then concentrated in-vacuo to afford a white solid. The solid was dissolved in methanol and passed through an SCX2 column. The SCX2 column was then flushed with 5% ammonia in methanol solution. The solution was collected and the solvent removed under reduced pressure. The resultant solid was re-crystallised from EtOAc and isoHexane, to afford the desired product as a white solid (4 g).

reactant | tert-Butyl (3S)-3-(piperazin-1-ylmethyl)piperidine-1-carboxylate | 3.5 g | N1(CCNCC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H29N3O2
reactant | phenyl isocyanate | 1.62 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | tert-Butyl (3S)-3-{[4-(anilinocarbonyl)piperazin-1-yl]methyl}piperidine-1-carboxylate | 4 g | N(C1=CC=CC=C1)C(=O)N1CCN(CC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34N4O3
